US05962458
Oxalyl chloride (1.9 g, 15 mmol) was added to 2-chloro-6-methyl-pyridine4-carboxylic acid (1.7 g, 10 mmol) in methylene chloride (30 ml) and the mixture stirred for 2 hours. The volatiles were removed by evaporation and methanol (20 ml) added to the residue. The mixture was stirred for 1 hour and the volatiles removed by evaporation to give methyl 2-chloro-6-methyl-pyridine-4-carboxylate (1.85 g, 100%) as an off-white solid.

reactant | Oxalyl chloride | 15 mmol, 1.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-chloro-6-methyl-pyridine4-carboxylic acid | 10 mmol, 1.7 g | ClC1=NC(=CC(=C1)C(=O)O)C | C7H6ClNO2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-chloro-6-methyl-pyridine-4-carboxylate | 1.85 g, 100% | ClC1=NC(=CC(=C1)C(=O)OC)C | C8H8ClNO2
